### PR TITLE
Refactor `Data.List.Relation.Binary.Permutation.*`

### PR DESCRIPTION
**Pull request by jamesmckinna**
WORK IN PROGRESS: do not review!

Of independent interest to the various competing proposals in #2311 for the 'right' representation, as it attempts to decouple the main properties of the relation from any particular notion. In particular, the isolation of the dependencies (and improved implementation UPDATED can't seem to get the syntax declarations to work for the specialised `Propositional` version of `PermutationReasoning`!?) of the `Reasoning` module, together with a 'better' smart constructor for transitivity in the current implementation(s), as well as a lot of nitpicky streamlining. 

NEW: have removed all dependency on well-founded induction on `steps` in favour of a (structurally inductive proof of) better `↭-split` lemma which uses the fact that `Permutation R` absorbs `Pointwise R` steps provided `R` is `Transitive`.

Currently in DRAFT, but aims to, and is most of the way towards:
* redefining `Propositional` as the `setoid` instance of `Setoid`, ditto. `Properties`
* refactoring `Setoid` and `Setoid.Properties` to localise all uses of induction on the `Homogeneous` representation to properties proved in general in `Homogeneous` (thereby allowing alternative representations)
* back-porting lemmas and proofs from `Propositional` to `Setoid` or even `Homogeneous`, incl.
* I have managed to get hacky/kludge proofs to work, but there is something more systematic to investigate about the higher-dimensional structure of proofs about `Pointwise` and `Permutation` lurking offstage...!?

Outstanding issues:
* fix the `syntax` declarations for `↭-Reasoning` (esp. for `<<⟨_⟩`? see #2319 )
* should the `Properties` module(s) automatically re-export the corresponding '`Base`' module, to avoid having to explicitly import that separately?

TODO:
* `CHANGELOG` ;-)
* last missing implementations from `Propositional` (some fiddliness here, plus some deprecation opportunities once things have been suitably generalised) UPDATED only
```agda
 ↭-map-inv : List.map f xs ↭′ vs → ∃ λ ys → vs ≡ List.map f ys × xs ↭ ys
  ```
remains
* refactor `Homogeneous` into `Core`/`Base` and `Properties` (currently a total ⟪casino⟫, esp. wrt dependencies)
* refactor `Setoid.Properties` into `Core` (representation dependent; to be discussed as the best way to achieve such modularisation for (each of) the representation(s)) and `Properties` depending on that component
* exporting induction principles while keeping constructors hidden?

Etc. To be continued...

### CODE REVIEW

File: doc/README/Data/List/Relation/Binary/Permutation.agda [hunk 1]
```diff
@@ -48,10 +48,21 @@ open PermutationReasoning
...
 lem₂ = begin
-  1 ∷ 2 ∷ 3 ∷ []  ↭⟨ prep 1 (swap 2 3 refl) ⟩
-  1 ∷ 3 ∷ 2 ∷ []  ↭⟨ swap 1 3 refl ⟩
+  1 ∷ 2 ∷ 3 ∷ []  ↭⟨ ↭-prep 1 (↭-swap 2 3 ↭-refl) ⟩
+  1 ∷ 3 ∷ 2 ∷ []  ↭⟨ ↭-swap 1 3 ↭-refl ⟩
   3 ∷ 1 ∷ 2 ∷ []  ∎
 
+-- In practice it is further useful to extend `PermutationReasoning`
+-- with specialised combinators `<⟨_⟩` and `<<⟨_⟩` to support the
+-- distinguished use of the `↭-prep ` and `↭-prep ` steps, allowing
```
Comment (Taneb) [inline doc/README/Data/List/Relation/Binary/Permutation.agda:57]: Should one of these `↭-prep`s be a `↭-swap`?

Comment (jamesmckinna) [reply doc/README/Data/List/Relation/Binary/Permutation.agda:57]: Do you know why the `Propositional` syntax declarations don't seem to parse properly when used in `lem₂ᵣ`?

File: src/Relation/Binary/PropositionalEquality/Properties.agda [hunk 2]
```diff
@@ -93,6 +93,9 @@ cong-∘ : ∀ {x y : A} {f : B → C} {g : A → B} (p : x ≡ y) →
          cong (f ∘ g) p ≡ cong f (cong g p)
 cong-∘ refl = refl
 
+sym-involutive : ∀ {x y : A} (p : x ≡ y) → sym (sym p) ≡ p
+sym-involutive refl = refl
```
Comment (jamesmckinna) [inline src/Relation/Binary/PropositionalEquality/Properties.agda:97]: Amazed this wasn't already in the library!

Comment (jamesmckinna) [reply src/Relation/Binary/PropositionalEquality/Properties.agda]: But have now made it local to `Data.List.Relation.Binary.Permutation.Propositional.Properties`, ditto.
```agda
trans-trans-sym : (p : x ≡ y) (q : y ≡ z) → ≡.trans (≡.trans p q) (≡.sym q) ≡ p
trans-trans-sym refl refl = refl
```

**Review by MatthewDaggitt — COMMENTED** [review]
Before I review this, am I right in understanding there's really two changes here? Firstly moving lots of stuff from `Setoid` to `Heterogeneous` and secondly changing the implementation of `Propositional` to use `Setoid`.

If so then could we do this in two different PRs? In particular the second PR is big breaking change, and therefore there are questions about when it exactly it can be merged in.

**Comment by jamesmckinna** [comment]
Thanks Matthew!
I'm just catching up with #1761 and #1354 which has made me reconsider what's here, and your comment drives the point home. 

One reason for it still being draft is it is still far from ready for review, is that I felt I needed to do both things to get a sense of what might subsequently work. 

Will attempt to refactor this into two more clearly defined pieces... so don't review yet!
(But I did have a specific question about the reasoning combinators, and any steer on that point would be helpful... ;))

File: src/Data/List/Relation/Binary/Permutation/Propositional/Properties.agda [hunk 3]
```diff
@@ -218,138 +176,34 @@ drop-mid {A = A} {x} ws xs p = drop-mid′ p ws xs refl refl
       _ ∷ _ ∷ xs ++ _   ∎
   drop-mid′ (swap y z p) (y ∷ z ∷ ws) (z ∷ [])     refl refl = begin
       _ ∷ _ ∷ ws ++ _   <<⟨ refl ⟩
+-- *** NB the next step can't be replaced with <⟨ shift _ _ _ ⟨ for some reason? ***
       _ ∷ (_ ∷ ws ++ _) <⟨ ↭-sym (shift _ _ _) ⟩
+-- *** because of parsing problems for that use of the `Reasoning` combinators!? ***
```
Comment (jamesmckinna) [inline src/Data/List/Relation/Binary/Permutation/Propositional/Properties.agda:181]: This seems to be a rare bug in our `Reasoning` combinators:
* `<⟨ ↭-sym (shift _ _ _) ⟩` and
* `<⟨ shift _ _ _ ⟨`
*ought to have the same semantics here; the first succeeds, but the second fails with a parsing error. Seemingly on `master` as well, so will flag as an issue cf. #2319

**Comment by jamesmckinna** [comment]
Note to self: typechecking appears not to terminate for `Data.List.Relation.Binary.Permutation.Homogeneous.Properties`!?

**Comment by jamesmckinna** [comment]
Stopping here as much of the refactoring of (the properties of `Setoid` as instances of those of) `Homogeneous` is fairly settled now. So I'll now attempt to retrofit that analysis back onto the *old* versions.

**Comment by jamesmckinna** [comment]
Previously @MatthewDaggitt wrote

> Before I review this, am I right in understanding there's really two changes here? Firstly moving lots of stuff from `Setoid` to `Heterogeneous` and secondly changing the implementation of `Propositional` to use `Setoid`.
> 
> If so then could we do this in two different PRs? In particular the second PR is big breaking change, and therefore there are questions about when it exactly it can be merged in.

Please now consider a possible roadmap as follows:
- [ ] (Part I) reconcile the APIs for `Propositional` and `Setoid` in their 'old' versions #2333 ; this is slightly more conservative, and doesn't even go as far as moving everything to `Homogeneous` as here
- [ ] (Part II) refactor via `Homogeneous.Properties.*` and `Propositional.Properties` and `Setoid.Properties` in terms of `Core` (based on `Homogeneous`) and 'derived' based on the respective `Core` properties
- [ ] (Part III) revisit #1761 to then reconcile the two definitions, and with minimised `Core`s via the `pattern` synonym tricks?

**Comment by MatthewDaggitt** [comment]
> Stopping here

Does this mean the draft status should be removed and this PR reviewed?

**Comment by jamesmckinna** [comment]
> > Stopping here
> 
> Does this mean the draft status should be removed and this PR reviewed?

Thanks @MatthewDaggitt for the prompt to return to this. I think the short answer, for the time being, is/ought to be "No":
* merge conflicts ahead of of the v2.1 release are stymying various open PRs, including the first part of this, namely #2333 , which is badged as v2.2
* the above (re-)factorisation into three parts, the first of which above, I had hoped made clear that this PR would (eventually ;-)) get broken up, part-by-part, and I haven't had the brain space to return to the second and/or third parts given that they are (potentially) `breaking`, and moreover, somewhat depend on the eventual fate of the first...

Sound OK to you?

**Comment by MatthewDaggitt** [comment]
Yes, sounds reasonable.

**Comment by JacquesCarette** [comment]
@jamesmckinna if you had help (i.e. someone who could follow your directions on how to push this forward), would you be able to continue work on this?

**Comment by jamesmckinna** [comment]
> @jamesmckinna if you had help (i.e. someone who could follow your directions on how to push this forward), would you be able to continue work on this?

Thanks for the offer! now that #2726 has been merged, there may be a clearer path to a (more radical) approach, because both versions (`Setoid` and `Propositional`) can delegate to a version (`Algorithmic` or `Declarative`) in which the `refl` behaviour can be better handled. But it now requires someone (else?) to stand back, and get a better global picture of where we are, and a vision of where we want to go... which might end up being `breaking`, so v3.0?
